US09163008B2
A mixture of 2-(4-fluorophenoxy)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine (158 mg, 0.5 mmol), (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-chloropyrimidine-4-carboxamide (121 mg, 0.5 mmol), Na2CO3 (2 M, 1 mL, 2 mmol) and Pd(PPh3)2Cl2 (20 mg, 0.025 mmol) in DME/EtOH/H2O (2 mL/1 mL/2 mL) was purged with Ar for one minute, then stirred at 100° C. for 14 hrs. The reaction mixture was then worked up with DCM. The DCM was isolated, dried over MgSO4, and removed under vacuum. The residue was subjected to silica gel flash chromatography using dichloromethane/methanol as the eluent to give (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-(6-(4-fluorophenoxy)pyridin-3-yl)pyrimidine-4-carboxamide as a gray solid (100 mg, yield 50%). NMR (DMSO-d6): 9.3 (1H, s), 8.9 (1H, m), 8.3 (1H, s), 8.05 (1H, m), 7.75 (1H, s), 7.5 (1H, s), 7.2-7.4 (4H, m), 6.95-7.15 (2H, m), 6.80 (1H, s), 4.5 (1H, m), 1.35 (3H, d, J=7.0 Hz). LC/MS: m/z=398 [M+H]+.

reactant | 2-(4-fluorophenoxy)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine | 0.5 mmol, 158 mg | FC1=CC=C(OC2=NC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C1 | C17H19BFNO3
reactant | (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-chloropyrimidine-4-carboxamide | 0.5 mmol, 121 mg | NC([C@H](C)NC1=CC(=NC(=N1)Cl)C(=O)N)=O | C8H10ClN5O2
reactant | Na2CO3 | 2 mmol, 2 M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME EtOH H2O | 2 mL | COCCOC.CCO.O
catalyst | Pd(PPh3)2Cl2 | 0.025 mmol, 20 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-(6-(4-fluorophenoxy)pyridin-3-yl)pyrimidine-4-carboxamide | 100 mg, yield 50% | NC([C@H](C)NC1=CC(=NC(=N1)C=1C=NC(=CC1)OC1=CC=C(C=C1)F)C(=O)N)=O | C19H17FN6O3
